US05294734
6 g (0.2 mol) of a sodium hydride dispersion (80% in white oil) are placed at room temperature in 120 ml of absolute dimethylformamide, and 22.2 ml (0.25 mol) of 1,4-butanediol are added dropwise. When the addition is complete, the mixture is stirred for a further 30 minutes at room temperature. 23.1 ml (0.2 mol) of benzyl chloride are then slowly added dropwise, a slight exothermic reaction being observed. The reaction mixture is stirred overnight at room temperature, water/ice is added, and the mixture is extracted twice with ether. The organic phases are washed with water and with saturated sodium chloride solution, combined, dried over MgSO4, filtered and concentrated by evaporation. The residue is subjected to fractional distillation under a water-jet vacuum over a 10 cm Vigreux column. 4-benzyloxybutanol is obtained, b.p.22 =161°-162°.

reactant | sodium hydride | 0.2 mol, 6 g | [H-].[Na+]
reactant | 1,4-butanediol | 0.25 mol, 22.2 ml | C(CCCO)O | C4H10O2
reactant | benzyl chloride | 0.2 mol, 23.1 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxybutanol | C(C1=CC=CC=C1)OCCCCO | C11H16O2
